US08466114B2
To a stirred solution of 1-[6-(5-bromo-2-chloro-benzoyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone (1.0 g, 2.23 mmol) in 1:2 of 1,2-dichloroethane/MeCN (12 mL) was added Et3SiH (0.755 mL, 4.68 mmol) and BF3.OEt2 (0.34 mL, 2.90 mmol) simultaneously at 20° C. The reaction mixture was heated at 50° C. for 4 h and quenched by the addition of aq. NaHCO3 (10 mL). The volatiles were evaporated under reduced pressure; the resulting mixture was extracted with dichloromethane (2×20 mL), washed with brine (5 mL), dried over sodium sulfate, concentrated and was purified by silica gel column chromatography to furnish 1-[6-(5-bromo-2-chloro-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone (0.60 g).

reactant | 1-[6-(5-bromo-2-chloro-benzoyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone | 2.23 mmol, 1.0 g | BrC=1C=CC(=C(C(=O)C=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C1)Cl | C17H10BrClF3NO3
reactant | Et3SiH | 4.68 mmol, 0.755 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.OEt2 | 2.90 mmol, 0.34 mL | B(F)(F)F.CCOCC
solvent | 1,2-dichloroethane MeCN | 12 mL | ClCCCl.CC#N
product | 1-[6-(5-bromo-2-chloro-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone | 0.60 g | BrC=1C=CC(=C(CC=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C1)Cl | C17H12BrClF3NO2
